US07399775B2
6-[(4-Chlorophenyl)sulfonyl]-6-(2,5-difluorophenyl)-1-hexanol
In tetrahydrofuran (30 ml) was dissolved 2-[6-(t-butyldimethylsilyloxy)-1-[(4-chlorophenyl)sulfonyl]hexyl]-1,4-difluorobenzene (0.70 g, 1.4 mmol). Under ice cooling, a tetrahydrofuran solution (1.0M, 4.2 ml, 4.2 mmol) of tetrabutylammonium fluoride was added and the mixture was stirred at room temperature for 1 hour. After addition of water (1.0 ml) to the reaction mixture, the mixture was concentrated under reduced pressure. The residue thus obtained was purified by silica gel chromatography (hexane:ethyl acetate=3:2) to yield a white solid. The resulting white solid was washed with hexane, whereby the title compound (0.47 g, 86%) was obtained as a white powder.

reactant | 2-[6-(t-butyldimethylsilyloxy)-1-[(4-chlorophenyl)sulfonyl]hexyl]-1,4-difluorobenzene | 1.4 mmol, 0.70 g | [Si](C)(C)(C(C)(C)C)OCCCCCC(S(=O)(=O)C1=CC=C(C=C1)Cl)C1=C(C=CC(=C1)F)F | C24H33ClF2O3SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 1.0 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.2 mmol, 1.0M, 4.2 ml | O1CCCC1 | C4H8O
product | 6-[(4-Chlorophenyl)sulfonyl]-6-(2,5-difluorophenyl)-1-hexanol | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCCO)C1=C(C=CC(=C1)F)F | C18H19ClF2O3S
